US06924284B2
Methyl 4-azidobutyrate (200 mg, 1.40 mmol) and 1-ethynyl-4-methoxybenzene (277 mg, 210 mmol) were dissolved in dioxane (3 mL) and heated in a microwave reactor for 5 min at 175° C. The reaction mixture was filtered and the filtrate was concentrated under vacuum. Compound 3-[4-(4-methoxy-phenyl)-[1,2,3]triazol-1-yl]-propionic acid methyl ester was treated with aqueous 2M NaOH (5 mL) in THF (3 mL) and stirred at RT for 5 h. The methanol was removed under vacuum and the residue was dissolved in dioxane (5 mL) and treated with concentrated HCl dropwise until a precipitate formed. The resulting acid was collected by filtration and the purity was measured by RPLC (78%). Compound 3-[4-(4-methoxy-phenyl)-[1,2,3]triazol-1-yl]-propionic acid (125 mg, 0.50 mmol) and 4-(3-amino-propylamino)-2H-phthalazin-1-one (100 mg, 0.46 mmol) were dissolved in DMF (2 mL) and treated with EDC (95 mg, 0.50 mmol) and triethylamine (76 mg, 0.75 mmol). 3-[4-(4-Methoxy-phenyl)-[1,2,3]triazol-1-yl]-N-[3-(4-oxo-3,4-dihydro-phthalazin-1-ylamino)-propyl]-propionamide was isolated by preparative RPLC.

reactant | Methyl 4-azidobutyrate | 1.40 mmol, 200 mg | N(=[N+]=[N-])CCCC(=O)OC | C5H9N3O2
reactant | 1-ethynyl-4-methoxybenzene | 210 mmol, 277 mg | C(#C)C1=CC=C(C=C1)OC | C9H8O
reactant | 3-[4-(4-methoxy-phenyl)-[1,2,3]triazol-1-yl]-propionic acid | 0.50 mmol, 125 mg | COC1=CC=C(C=C1)C=1N=NN(C1)CCC(=O)O | C12H13N3O3
reactant | 4-(3-amino-propylamino)-2H-phthalazin-1-one | 0.46 mmol, 100 mg | NCCCNC1=NNC(C2=CC=CC=C12)=O | C11H14N4O
reactant | EDC | 0.50 mmol, 95 mg
reactant | triethylamine | 0.75 mmol, 76 mg | C(C)N(CC)CC | C6H15N
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-[4-(4-Methoxy-phenyl)-[1,2,3]triazol-1-yl]-N-[3-(4-oxo-3,4-dihydro-phthalazin-1-ylamino)-propyl]-propionamide | COC1=CC=C(C=C1)C=1N=NN(C1)CCC(=O)NCCCNC1=NNC(C2=CC=CC=C12)=O | C23H25N7O3
